US07183276B2
A mixture of methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate (1.50 g), 1H-indazole (1.18 g), potassium carbonate (1.38 g) and N,N-dimethylformamide (20 mL) was stirred at 120° C. for 3 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The obtained crystals were collected by filtration, dried and dissolved in a mixed solvent of tetrahydrofuran (20 mL) and ethanol (20 mL). A 1N aqueous sodium hydroxide solution (10 mL) was added, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was acidified with 1N aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The obtained crystals were collected by filtration using isopropyl ether and dried to give 3-[4-(4-chlorophenyl)-2-(1H-indazol-1-yl)-5-oxazolyl]propionic acid (824 mg, yield 45%) as pale-yellow prism crystal. melting point: 204–205° C.

reactant | methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate | 1.50 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | 1H-indazole | 1.18 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[4-(4-chlorophenyl)-2-(1H-indazol-1-yl)-5-oxazolyl]propionic acid | 824 mg, yield 45% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1N=CC2=CC=CC=C12 | C19H14ClN3O3
